US06245770B1
7-bromo-2-propoxy-3-propylthieno[3,2-d]pyrimidin-4(3H)-one;
6-bromo-2-propoxy-3-propylpyrido[2,3-d]pyrimidin-4(3H)-one; 6-bromo-3-propyl-2-(propylthio)pyrido[2,3-d]pyrimidin-4(3H)-one; 6-iodo-2-propyloxy-3-[(tetrahydro-2-furanyl)methyl]-4(3H)-quinazolinone; 6-bromo-2-propyloxy-3-[(tetrahydro-2-furanyl)methyl]-4(3H)-quinazolinone; 6bromo-3-[(3-bromo-4,5-dihydro-5-isoxazolyl)methyl]-2-propoxy-4(3H)-quinazolinone; 6,7-dibromo-2-propoxy-3-propylthieno[3,2-d]pyrimidin-4(3H)-one; 6,8-diiodo-2-(propylthio)-3-[(tetrahydro-2-furanyl)methyl]-4(3H)-quinazolinone; and 3-(cyclopropylmethyl)-6-iodo-2-(propylthio)pyrido[2,3-d]pyrimidin-4(3H)-one.

reactant | 6-bromo-2-propoxy-3-propylpyrido[2,3-d]pyrimidin-4(3H)-one | BrC1=CC2=C(N=C(N(C2=O)CCC)OCCC)N=C1 | C13H16BrN3O2
reactant | 6-bromo-3-propyl-2-(propylthio)pyrido[2,3-d]pyrimidin-4(3H)-one | BrC1=CC2=C(N=C(N(C2=O)CCC)SCCC)N=C1 | C13H16BrN3OS
reactant | 6-iodo-2-propyloxy-3-[(tetrahydro-2-furanyl)methyl]-4(3H)-quinazolinone | IC=1C=C2C(N(C(=NC2=CC1)OCCC)CC1OCCC1)=O | C16H19IN2O3
reactant | 6-bromo-2-propyloxy-3-[(tetrahydro-2-furanyl)methyl]-4(3H)-quinazolinone | BrC=1C=C2C(N(C(=NC2=CC1)OCCC)CC1OCCC1)=O | C16H19BrN2O3
reactant | 6bromo-3-[(3-bromo-4,5-dihydro-5-isoxazolyl)methyl]-2-propoxy-4(3H)-quinazolinone | BrC=1C=C2C(N(C(=NC2=CC1)OCCC)CC1CC(=NO1)Br)=O | C15H15Br2N3O3
reactant | 6,7-dibromo-2-propoxy-3-propylthieno[3,2-d]pyrimidin-4(3H)-one | BrC1=C(C=2N=C(N(C(C2S1)=O)CCC)OCCC)Br | C12H14Br2N2O2S
reactant | 6,8-diiodo-2-(propylthio)-3-[(tetrahydro-2-furanyl)methyl]-4(3H)-quinazolinone | IC=1C=C2C(N(C(=NC2=C(C1)I)SCCC)CC1OCCC1)=O | C16H18I2N2O2S
reactant | 3-(cyclopropylmethyl)-6-iodo-2-(propylthio)pyrido[2,3-d]pyrimidin-4(3H)-one | C1(CC1)CN1C(=NC2=C(C1=O)C=C(C=N2)I)SCCC | C14H16IN3OS
product | 7-bromo-2-propoxy-3-propylthieno[3,2-d]pyrimidin-4(3H)-one | BrC1=CSC2=C1N=C(N(C2=O)CCC)OCCC | C12H15BrN2O2S
